US08067592B2
5-Amino-1-methylindazole (1.56 g) in phosphoric acid (13 ml) containing water (3 ml) was heated to 180° C. for 18 hours, cooled to ambient temperature, poured into water (5 ml) then neutralised with aqueous sodium hydroxide. The solid that precipitated was filtered from solution, washed with cold water then sucked to dryness to give was hydrolysed to give 5-hydroxyl-1-methylindazole as a brown solid, (1.18 g).

reactant | 5-Amino-1-methylindazole | 1.56 g | NC=1C=C2C=NN(C2=CC1)C | C8H9N3
reactant | water | 3 ml | O | H2O
reactant | water | 5 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | phosphoric acid | 13 ml | P(O)(O)(O)=O | H3O4P
product | 5-hydroxyl-1-methylindazole | OC=1C=C2C=NN(C2=CC1)C | C8H8N2O
